US09422312B2
Step 1: N,N-Dimethyl-N′-[4-(tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methanesulfonimidamide
A mixture of N′-(4-bromophenyl)-N,N-dimethyl-methanesulfonimidamide (120 mg), 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] (138 mg), potassium acetate (151 mg), and 1,4-dioxane (2 mL) is purged for 5 minutes with argon. [1,1′-Bis(diphenylphosphino)-ferrocene]-dichloropalladium(II)-CH2Cl2-complex (PdCl2(dppf)×CH2Cl2) (35 mg) is added and the mixture is stirred for 2 days at 80° C. More 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl], PdCl2(dppf)×CH2Cl2, and potassium acetate is added and the mixture is stirred at 85° C. for 5 h until conversion is complete. The reaction mixture diluted with water and dichloromethane, filtered through Celite, and extracted with dichloromethane. The combined extracts are washed with brine, dried over MgSO4, and concentrated in vacuo. The residue is chromatographed on silica gel (dichloromethane/methanol 97:3→75:25) to give the title compound. LC (method 1): tR=1.01 min; Mass spectrum (ESI+): m/z=325 [M+H]+.

reactant | N′-(4-bromophenyl)-N,N-dimethyl-methanesulfonimidamide | 120 mg | BrC1=CC=C(C=C1)N=S(=O)(N(C)C)C | C9H13BrN2OS
reactant | 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] | 138 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 151 mg | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | N,N-Dimethyl-N′-[4-(tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methanesulfonimidamide | CN(S(=O)(=NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C)C | C15H25BN2O3S
